US09127003B2
To a flask containing tert-butyl((3S,4R)-1-(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazole-5-carbonyl)-4-hydroxypiperidin-3-yl)carbamate (37 mg, 0.068 mmol) in dichloromethane (DCM) (1 mL) was added TFA (0.199 mL, 2.58 mmol) and the reaction was stirred for 1 h. The reaction mixture was concentrated in vacuo to afford a brown oil. This was dissolved in methanol and loaded onto an SCX cartridge (5 g). It was eluted with methanol (3 column volumes) and product eluted as free base with 2M ammonia in methanol. The filtrate from the ammonia fractions was concentrated in vacuo to yield a yellow oil—((3S,4R)-3-amino-4-hydroxypiperidin-1-yl)(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazol-5-yl)methanone (32 mg, 0.068 mmol, 100% yield). This was dissolved in dichloromethane (DCM) (1 mL) in a vial and HCl (2 M in Et2O) (0.034 mL, 0.068 mmol) was added. The resultant suspension was sonicated for 5 min and allowed to stand for 15 min. The solvent was then removed under a positive pressure of nitrogen and the product dried in vacuo to afford ((3S,4R)-3-amino-4-hydroxypiperidin-1-yl)(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazol-5-yl)methanone, hydrochloride (32 mg, 0.067 mmol, 98% yield) as a white solid.

reactant | tert-butyl((3S,4R)-1-(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazole-5-carbonyl)-4-hydroxypiperidin-3-yl)carbamate | 0.068 mmol, 37 mg | C(C)(C)(C)OC(N[C@H]1CN(CC[C@H]1O)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC2CC2)C)C=C1)=O | C30H36N6O4
reactant | TFA | 2.58 mmol, 0.199 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | ((3S,4R)-3-amino-4-hydroxypiperidin-1-yl)(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazol-5-yl)methanone | 0.068 mmol, 32 mg, 100% yield | N[C@H]1CN(CC[C@H]1O)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC2CC2)C)C=C1 | C25H28N6O2
